US05607928
A suspension of 6-bromo-3-formylchromone (150 mg; 0.59 mmol) in toluene (10 ml) was heated at 50°-55° C. until the solute had completely dissolved. Aniline (55 μl; 0.59 mmol) was added and the temperature was maintained for 15 minutes. On cooling, a yellow precipitate formed which was filtered off and dried under reduced pressure to give 6-bromo-3-(phenyliminomethyl)chromone (190 mg; 98%).

reactant | 6-bromo-3-formylchromone | 0.59 mmol, 150 mg | BrC=1C=C2C(C(=COC2=CC1)C=O)=O | C10H5BrO3
reactant | Aniline | 0.59 mmol, 55 μl | NC1=CC=CC=C1 | C6H7N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-3-(phenyliminomethyl)chromone | 190 mg, 98% | BrC=1C=C2C(C(=COC2=CC1)C=NC1=CC=CC=C1)=O | C16H10BrNO2
